US05061717
5-[4-(2-(4-Chlorophenyl)ethylthio)phenylmethylene]thiazolidine-2,4-dione
4-[2-(4-Chlorophenyl)ethylthio]benzaldehyde and thiazolidine-2,4-dione were coupled according to the method of Example 5 to form present title product in similar yield; m.p. 215°-225° C.

reactant | 4-[2-(4-Chlorophenyl)ethylthio]benzaldehyde | ClC1=CC=C(C=C1)CCSC1=CC=C(C=O)C=C1 | C15H13ClOS
reactant | thiazolidine-2,4-dione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[4-(2-(4-Chlorophenyl)ethylthio)phenylmethylene]thiazolidine-2,4-dione | ClC1=CC=C(C=C1)CCSC1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C18H14ClNO2S2
